US07098212B2
(5-Chloro-2-{2-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethoxyl-pyridin-3-yl)-acetic acid
To a solution of (5-chloro-2-{2-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethoxy}-pyridin-3-yl)-acetic acid methyl ester (0.14 g, 0.3 mmol) in tetrahydrofuran (3.0 mL) and water (0.6 mL) was added lithium hydroxide monohydrate (0.031 g, 0.75 mmol) at ambient temperature. After stirring for 4 hours the reaction mixture was filtered through a pad of silica gel eluting with 10% methanol/dichloromethane. The filtrate was concentrated in vacuo to provide the title compound (0.061 g).

reactant | (5-chloro-2-{2-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethoxy}-pyridin-3-yl)-acetic acid methyl ester | 0.3 mmol, 0.14 g | COC(CC=1C(=NC=C(C1)Cl)OCC(=O)N1[C@@H](CN([C@H](C1)C)CC1=CC=C(C=C1)F)C)=O | C23H27ClFN3O4
reactant | lithium hydroxide monohydrate | 0.75 mmol, 0.031 g | O.[OH-].[Li+]
solvent | tetrahydrofuran | 3.0 mL | O1CCCC1 | C4H8O
solvent | water | 0.6 mL | O | H2O
product | 5-Chloro-2-{2-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethoxyl-pyridin-3-yl)-acetic acid | 0.061 g | ClC=1C=C(C(=NC1)OCC(=O)N1[C@@H](CN([C@H](C1)C)CC1=CC=C(C=C1)F)C)CC(=O)O | C22H25ClFN3O4
